US07335654B2
A mixture of 6-(1-butyl)-2-trifluoromethylpurine (35 mg, 0.14 mmol), bromocyclopentane (89 mg, 0.60 mmol), potassium carbonate (83 mg, 0.6 mmol) and N,N-dimethylformamide (3 ml) was heated to 100° C. After 8 hours, the reaction mixture was cooled to 40° C. and concentrated under vacuum. The residue was treated with 15 ml of ethyl acetate and washed with 5% sodium bicarbonate (2×15 mL). The organic layer was concentrated and purified by chromatography (20% ethyl acetate in hexane) to give 6-(1-butyl)-9-cyclopentyl-2-trifluoromethylpurine (26.6 mg, 60% yield).

reactant | 6-(1-butyl)-2-trifluoromethylpurine | 0.14 mmol, 35 mg | C(CCC)C1=C2NC=NC2=NC(=N1)C(F)(F)F | C10H11F3N4
reactant | bromocyclopentane | 0.60 mmol, 89 mg | BrC1CCCC1 | C5H9Br
reactant | potassium carbonate | 0.6 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 6-(1-butyl)-9-cyclopentyl-2-trifluoromethylpurine | 26.6 mg, 60% yield | C(CCC)C1=C2N=CN(C2=NC(=N1)C(F)(F)F)C1CCCC1 | C15H19F3N4
